US07368578B2
A mixture of 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carboxylic acid (0.80 g), 1-hydroxy-1H-1,2,3-benzotriazole ammonia complex (0.27 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.34 g) and N,N-dimethylformamide (10 mL) was stirred overnight at room temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with dilute hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carboxamide (0.78 g, yield 98%) as colorless crystals. The crystals were recrystallized from acetone-hexane. melting point: 190-191° C.

reactant | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carboxylic acid | 0.80 g | COC=1C=C(COC2=NN(C=C2C(=O)O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H25N3O6
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.34 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-4-carboxamide | 0.78 g, yield 98% | COC=1C=C(COC2=NN(C=C2C(=O)N)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H26N4O5
